### PR TITLE
Define basic well-formedness of LFunc/Factory and prove WF of Boogie Factory

### PR DESCRIPTION
**Pull request by aqjune-aws**
*Description of changes:*

This patch
* defines very basic well-formedness of LFunc and Factory, which include a desirable property previously written in a comment
* Prove that Factory.addFactoryFunc and Factory.addFactory preserves well-formedness
* Prove that Boogie's Factory is well-formed.

The motivation of this patch is somewhat in a similar context to adding conformance testing to Boogie operations. Since Boogie has many operations, there can be hidden bugs and I wanted to confirm whether these are good.

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Strata/DL/Lambda/Factory.lean [hunk 1]
```diff
@@ -99,6 +99,28 @@ structure LFunc (T : LExprParams) where
...
   axioms   : List (LExpr T.mono) := []  -- For axiomatic definitions
 
+/--
+Well-formedness properties of LFunc. These are splitted from LFunc because
+otherwise it becomes impossible to create a 'temporary' LFunc object whose
+wellformedness might not hold yet.
+-/
+structure LFuncWf {T : LExprParams} (f:LFunc T) where
+  -- No args have same name.
+  arg_nodup:
```
Comment (joscoh) [inline Strata/DL/Lambda/Factory.lean:109]: Just wondering, why not `List.Nodup (f.inputs.map LFunc.name)`?

File: Strata/Languages/Boogie/Factory.lean [hunk 2]
```diff
@@ -563,4 +602,216 @@ Get all the built-in functions supported by Boogie.
 def builtinFunctions : Array String :=
   Factory.map (fun f => BoogieIdent.toPretty f.name)
 
+
+/--
+Wellformedness of the factories.
+-/
+
+private theorem intRealBoolFactory_wf : FactoryWf intRealBoolFactory := by
```
Comment (joscoh) [inline Strata/Languages/Boogie/Factory.lean]: For something like this I tend to prefer to write a decidable/Bool-valued predicate (provably equivalent to/reflecting the `Prop`-valued one) and then prove this kind of theorem by `rfl/decide`. The WF properties are all decidable so this would be doable, and it would avoid these long, tedious theorems. It would also allow us to add new Factories/change implementations easier. And we could give a more efficient implementation for e.g. checking duplicates to avoid the need for splitting up the Factories this way. Disclaimer: I am not completely sure how well this method of proof works in Lean.

Comment (aqjune-aws) [reply Strata/Languages/Boogie/Factory.lean]: Actually, your suggested direction was what I initially had in my mind - writing wellformedness as decidable predicates. I was kind of stuck at making this part decidable: `∀ fv, fv ∈ freevars → ...` in:
```
  body_freevars:
    ∀ b freevars, f.body = .some b
      → freevars = LExpr.freeVars b
      → (∀ fv, fv ∈ freevars →
          ∃ arg, List.Mem arg f.inputs ∧ fv.1.name = arg.1.name)
```
(there is `∃ arg, List.Mem arg f.inputs ∧ ..` as well, but wanted to understand how the `∀ fv, ...` could be addressed first.)

For a concrete `LFunc`, the `freevars` will have its concrete definition, so there could be a way to do this.

File: Strata/DL/Lambda/Factory.lean (hunk 1 above)
Comment (aqjune-aws) [reply Strata/DL/Lambda/Factory.lean:109]: No special reason, I just wanted to more explicitly use `List.Pairwise` because it immediately shows how this predicate can be proven. But `List.Nodup` seems much easier to read.

File: Strata/Languages/Boogie/Factory.lean (hunk 2 above)
Comment (joscoh) [reply Strata/Languages/Boogie/Factory.lean]: `∀ fv, fv ∈ freevars → ...` can be decided by `List.all (fun fv => ...) freevars` and likewise for the `exists` predicate with `List.any`.

Comment (joscoh) [reply Strata/Languages/Boogie/Factory.lean]: So the whole thing could be `match f.body with | some b => List.all (fun fv => List.any (fun arg => fv.1.name == arg.1.name) f.inputs) (LExpr.freeVars b) | none => true`

Comment (aqjune-aws) [reply Strata/Languages/Boogie/Factory.lean]: That could be an option, yes. But this uses the executable functions and I am not sure whether they will be handy if they have to be used as hypotheses in the goal state when proving something - my experience was mostly restricted to using the predicate versions when proving something.

Comment (aqjune-aws) [reply Strata/Languages/Boogie/Factory.lean]: Maybe I can try exploring writing Decidable tailored to these WF properties by myself a bit more (while keeping the current WF definitions). If it works, that will make the proof much simpler....

Comment (joscoh) [reply Strata/Languages/Boogie/Factory.lean]: I am imagining that we keep the current definition but also write an executable version and prove the `Decidable` property using the executable version. So any proofs where we need the hypotheses would use the existing version, but if we need to prove for concrete instances, we just use the executable version.

Comment (aqjune-aws) [reply Strata/Languages/Boogie/Factory.lean]: Hmm, with the Decidable instances the proofs for the whole Factory went smoothly. :) My patch still misses the Decidable instance for `LFuncWf.concreteEval_argmatch` which is:
```
  concreteEval_argmatch:
    ∀ fn md args res, f.concreteEval = .some fn
      → fn md args = .some res
      → args.length = f.inputs.length
```
... so could not achieve the ideal status of using one, simplest `decide` tactic, but still much simpler than before and there is full wellformedness proof. Thanks! :)

Comment (joscoh) [reply Strata/Languages/Boogie/Factory.lean]: Nice! One option for this last piece is to not require it as a well-formedness check, but instead enforce the length restriction some other way. A few options I can think of:
1. Have a wrapper function that wraps `concreteEval` and enforces the restriction, like 
```
match f.concreteEval with 
| .some fn => fun md args => if args.length == f.inputs.length then some (fn md args) else none
| .none => none
```
2. Enforce the length as a precondition to the function itself (which is not exactly the same behavior):
`concreteEval : Option (T.Metadata -> (l: List (LExpr T.mono)) -> (len: l.length = inputs.length) -> Option (LExpr T.mono))`
3. Something even more awkward that achieves the exact `argmatch` condition:
`concreteEval : Option (T.Metadata -> (l: List (LExpr T.mono)) -> if l.length == inputs.length then Option (LExpr T.mono) else Unit)`
or
`concreteEval : Option (T.Metadata -> (l: List (LExpr T.mono)) -> {o: Option (LExpr T.mono) | l.length == inputs.length -> o = None }`

None of these are great solutions, so maybe it is fine as it currently is. It just feels strange to me to have a well-formedness predicate that is not decidable, even in principle.

Comment (aqjune-aws) [reply Strata/Languages/Boogie/Factory.lean]: For now I think it is good idea to avoid affecting existing codes in Strata that use LFunc. But I can see the benefit of having decidable wellformedness - it allows us to have an executable well-formedness checker.

File: Strata/DDM/Util/Array.lean [hunk 3]
```diff
@@ -122,5 +122,22 @@ theorem of_mem_pop {α} {a : α} {as : Array α} : a ∈ as.pop → a ∈ as :=
   simp [Array.mem_iff_getElem]
   grind
 
+theorem push_mem:
```
Comment (joscoh) [inline Strata/DDM/Util/Array.lean]: This is `Array.mem_push` (or `Array.mem_or_eq_of_mem_push` for just the single direction).

File: Strata/DDM/Util/Array.lean [hunk 4]
```diff
@@ -122,5 +122,22 @@ theorem of_mem_pop {α} {a : α} {as : Array α} : a ∈ as.pop → a ∈ as :=
...
+  ∀ {T} (x:Array T) (y z:T), z ∈ Array.push x y → z ∈ x ∨ z = y
+:= by
+  grind
+
+theorem toList_list_cons {α}:
+  ∀ (hd:α) (tl:List α) (arr:Array α),
+    Array.toList arr = hd::tl ↔ arr = (List.toArray [hd]) ++ (List.toArray tl)
+:= by grind
+
+theorem foldlM_ofList {α β} {m:Type → Type} [Monad m]:
```
Comment (joscoh) [inline Strata/DDM/Util/Array.lean]: This is `Array.foldlM_toList` I believe.

File: Strata/DDM/Util/Array.lean [hunk 5]
```diff
@@ -122,5 +122,22 @@ theorem of_mem_pop {α} {a : α} {as : Array α} : a ∈ as.pop → a ∈ as :=
...
+  ∀ (arr:Array α) (init:β) (f:β → α → m β),
+    Array.foldlM f init arr = List.foldlM f init (Array.toList arr) := by grind
+
+theorem toList_nil {α}:
```
Comment (joscoh) [inline Strata/DDM/Util/Array.lean]: This is `Array.toList_eq_nil_iff`.

File: Strata/DL/Lambda/Factory.lean [hunk 6]
```diff
@@ -186,13 +256,92 @@ def Factory.addFactoryFunc (F : @Factory T) (func : LFunc T) : Except Format (@F
...
+
 /--
 Append a factory `newF` to an existing factory `F`, checking for redefinitions
 along the way.
 -/
 def Factory.addFactory (F newF : @Factory T) : Except Format (@Factory T) :=
   Array.foldlM (fun factory func => factory.addFactoryFunc func) F newF
 
+
+omit [Inhabited T.IDMeta] [DecidableEq T.IDMeta] [BEq T.IDMeta] in
```
Comment (joscoh) [inline Strata/DL/Lambda/Factory.lean]: I've encountered this issue too; at some point we should probably organize files so we have a separate "theorems" section that has the correct implicit parameters.

File: Strata/DL/Util/List.lean [hunk 7]
```diff
@@ -411,4 +411,14 @@ theorem length_dedup_of_subset_le {α : Type} [DecidableEq α] (l₁ l₂ : List
       simp_all [dedup]
       omega
 
+theorem foldlM_empty {α β} {m:Type → Type} [Monad m]:
```
Comment (joscoh) [inline Strata/DL/Util/List.lean]: This is `List.foldlM_nil`.

File: Strata/DL/Util/List.lean [hunk 8]
```diff
@@ -411,4 +411,14 @@ theorem length_dedup_of_subset_le {α : Type} [DecidableEq α] (l₁ l₂ : List
...
+  ∀ (init:β) (f:β → α → m β),
+    List.foldlM f init [] = Pure.pure init := by grind
+
+theorem all_forall_mem:
```
Comment (joscoh) [inline Strata/DL/Util/List.lean]: This is `List.all_eq_true` (also `List.decide_forall_mem` handles the `decide` part, maybe it could be helpful in the proofs).

File: Strata/DL/Util/List.lean [hunk 9]
```diff
@@ -411,4 +411,14 @@ theorem length_dedup_of_subset_le {α : Type} [DecidableEq α] (l₁ l₂ : List
...
+  ∀ {T} (l:List T) P, l.all P = true ↔ (∀ m, m ∈ l → P m) := by grind
+
+theorem any_exists:
```
Comment (joscoh) [inline Strata/DL/Util/List.lean]: This is `List.any_eq_true`.

Comment (aqjune-aws) [reply Strata/DL/Util/List.lean]: Thanks for detecting these redundant theorems. How did you find these? I could imagine using `apply?` after writing `theorem any_exists: ...`, but this can pick some lemma that do not immediately discharge the goal.

Comment (joscoh) [reply Strata/DL/Util/List.lean]: Yes, I just searched the relevant terms with Loogle (which isn't great but usually does OK for stuff like this) e.g. for this one I searched (I think) `List.any, Membership.mem`. The annoying part is unfolding notations

File: Strata/Languages/Boogie/Factory.lean [hunk 10]
```diff
@@ -149,7 +149,13 @@ info: [("Neg", "unaryOp"), ("Add", "binaryOp"), ("Sub", "binaryOp"), ("Mul", "bi
 #guard_msgs in
 #eval List.zip BVOpNames BVOpAritys
 
-variable [Coe String BoogieLParams.Identifier]
+/--
+Coercion of a string to BoogieIdent yields an unresolved identifier
+This is the default setting of Strata/Languages/Boogie/Identifiers.lean
+as well
+-/
+instance coeStringIdent: Coe String (BoogieLParams.Identifier) where
```
Comment (joscoh) [inline Strata/Languages/Boogie/Factory.lean]: Why does the instance in `Boogie/Identifiers.lean` not suffice here?

**Review by joscoh — APPROVED** [review]

File: Strata/Languages/Boogie/Factory.lean (hunk 10 above)
Comment (aqjune-aws) [reply Strata/Languages/Boogie/Factory.lean]: It was sufficient, and actually there was one more redundant Coe instance so I deleted that too.

**Review by joscoh — APPROVED** [review]

File: Strata/DL/Lambda/Factory.lean [hunk 11]
```diff
@@ -77,10 +79,8 @@ an example of a `concreteEval` function for `Int.Add`:
 ```
 
 Note that if there is an arity mismatch or if the arguments are not
-concrete/constants, this fails and we return the original term `e`.
+concrete/constants, this fails and it returns .none.
```
Comment (shigoel) [inline Strata/DL/Lambda/Factory.lean:82]: thanks for fixing the comment.

File: Strata/DL/Lambda/Factory.lean [hunk 12]
```diff
@@ -99,6 +99,59 @@ structure LFunc (T : LExprParams) where
   concreteEval : Option (T.Metadata → List (LExpr T.mono) → Option (LExpr T.mono)) := .none
   axioms   : List (LExpr T.mono) := []  -- For axiomatic definitions
 
+/--
+Well-formedness properties of LFunc. These are splitted from LFunc because
```
Comment (shigoel) [inline Strata/DL/Lambda/Factory.lean]:
```suggestion
Well-formedness properties of LFunc. These are split from LFunc because
```

File: Strata/DL/Lambda/Factory.lean [hunk 13]
```diff
@@ -99,6 +99,59 @@ structure LFunc (T : LExprParams) where
...
+otherwise it becomes impossible to create a 'temporary' LFunc object whose
+wellformedness might not hold yet.
+-/
+structure LFuncWf {T : LExprParams} (f : LFunc T) where
```
Comment (shigoel) [inline Strata/DL/Lambda/Factory.lean]: The smallest of nits: mind renaming to `LFuncWF` instead? I'm okay to not block on this though.

File: Strata/DL/Lambda/Factory.lean [hunk 14]
```diff
@@ -168,6 +221,23 @@ def Factory.default : @Factory T := #[]
 instance : Inhabited (@Factory T) where
   default := @Factory.default T
 
+instance : Membership (LFunc T) (@Factory T) where
+  mem x f := Array.Mem x f
+
+/--
+Well-formedness properties of Factory.
+-/
+structure FactoryWf {T : LExprParams} (fac:Factory T) where
```
Comment (shigoel) [inline Strata/DL/Lambda/Factory.lean]: Same goes: `FactoryWF` but not a blocker.

File: Strata/DL/Lambda/Factory.lean [hunk 15]
```diff
@@ -186,13 +256,94 @@ def Factory.addFactoryFunc (F : @Factory T) (func : LFunc T) : Except Format (@F
               Existing Function: {func'}\n\
               New Function:{func}"
 
+
+omit [Inhabited T.IDMeta] [DecidableEq T.IDMeta] [BEq T.IDMeta] in
+/--
+If Factory.addFactoryFunc succeeds, and the input factory & LFunc were already
+well-formed, the returned factory is also well-formed.
+-/
+theorem Factory.addFactoryFunc_wf
```
Comment (shigoel) [inline Strata/DL/Lambda/Factory.lean:264]: Nice!!!

File: Strata/Languages/Boogie/Factory.lean [hunk 16]
```diff
@@ -563,4 +559,44 @@ Get all the built-in functions supported by Boogie.
 def builtinFunctions : Array String :=
   Factory.map (fun f => BoogieIdent.toPretty f.name)
 
+
+set_option maxRecDepth 32768
```
Comment (shigoel) [inline Strata/Languages/Boogie/Factory.lean]: Oof! What's going on here? Can you trace why we need this?

Also, I'd rather have `set_option ... in` directly above the offending construct to localize these settings.

File: Strata/DL/Lambda/Factory.lean [hunk 17]
```diff
@@ -186,13 +256,94 @@ def Factory.addFactoryFunc (F : @Factory T) (func : LFunc T) : Except Format (@F
               Existing Function: {func'}\n\
               New Function:{func}"
 
+
+omit [Inhabited T.IDMeta] [DecidableEq T.IDMeta] [BEq T.IDMeta] in
```
Comment (shigoel) [inline Strata/DL/Lambda/Factory.lean]: we should file an issue to fix such problems manifesting from declaring unscoped `variable`s

Comment (aqjune-aws) [reply Strata/DL/Lambda/Factory.lean]: Actually, it was easy to fix. :/ Resolved in the new commit

File: Strata/Languages/Boogie/Factory.lean (hunk 16 above)
Comment (aqjune-aws) [reply Strata/Languages/Boogie/Factory.lean]: I think it is from the tactics used for proving `LFuncWf.concreteEval_argmatch`, but was not crystal clear. Used `set_option .. in`.

File: Strata/DL/Lambda/Factory.lean (hunk 13 above)
Comment (aqjune-aws) [reply Strata/DL/Lambda/Factory.lean]: Done (and FactoryWF too)

File: Strata/Languages/Boogie/Factory.lean (hunk 16 above)
Comment (shigoel) [reply Strata/Languages/Boogie/Factory.lean]: Hmm, maybe it's `grind`?

Comment (aqjune-aws) [reply Strata/Languages/Boogie/Factory.lean]: Maybe, but actually my impression was that it was a sequence of expensive tactics that made it eventually overflow.
If fully unrolled, the proof structure will be "take the first element of the Factory list, prove WF of the LFunc, take second element, prove WF of it, take third, ....". Since there are quite a few functions in Factory, the depth becomes quite deep but still affordable by Lean I guess.

And then here comes my theory: ideally, the expensive tactics like `simp` or `grind` are supposed to work at the "leaves" of the proof tree, avoiding multiplying the depth of the proof tree by a large constant. But my hypothesis is that this might not always the case in practice because for example discharging subgoal `i` might resolve hidden metavariables that will be used at subgoal `i+1`, making the size of the final subgoal state super large. So, the size of the sub-proof term increases as `i` increases, making the tactics more expensive too.

But this is indeed a conjecture. Actually, a preferred direction in the Lean world might be to define a custom computable decision procedure, prove that once the decision procedure is correct then the property holds, and use that (as the new `Decidable` instance in this patch did :). It did not immediately apply to this `LFuncWf.concreteEval_argmatch` because it is not decidable, but I am guessing that if using partial functions are allowed for `Decidable` then this could be resolved. But I haven't dived further, but this would be necessary if there are even more functions added to Factory.

Comment (shigoel) [reply Strata/Languages/Boogie/Factory.lean]: Thanks for the explanation and your theory!
